US08871790B2
Compound 462.1. 5-Bromo-2,2-dimethyldihydro-2H-pyran-4(3H)-one
Into around-bottom flask, was placed a solution of 2,2-dimethyloxan-4-one (1.00 g, 7.80 mmol, 1.00 equiv) in ether (20 mL). N-Bromosuccinimide (1.50 g, 25.5 mmol, 3.26 equiv) was added in portions, followed by the addition of ammonium acetate (60.0 mg, 0.78 mmol, 0.10 equiv). The resulting mixture was stirred overnight at 25° C., then diluted with ethyl acetate (20 mL). The resulting mixture was washed brine (2×40 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by silica gel chromatography with ethyl acetate/petroleum ether (1:30) as the eluent to obtain the title compound as a yellow oil (508 mg, 31%).

reactant | 2,2-dimethyloxan-4-one | 7.80 mmol, 1.00 g, 1.00 equiv | CC1(OCCC(C1)=O)C | C7H12O2
reactant | N-Bromosuccinimide | 25.5 mmol, 1.50 g, 3.26 equiv | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ammonium acetate | 0.78 mmol, 60.0 mg, 0.10 equiv | C(C)(=O)[O-].[NH4+]
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-2,2-dimethyldihydro-2H-pyran-4(3H)-one | 508 mg, 31% | BrC1C(CC(OC1)(C)C)=O | C7H11BrO2
